US06887896B1
(2E,4E,6E)-7-(8-tert-Butyl-3-ethoxy-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoic acid (Compound A-83)
As described in General Procedure J-1, ethyl (2E,4E,6E)-7-(8-tert-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoate (Compound A-74, 520 mg, 1.111 mmol) in THF (5 mL) and ethanol (5 mL) was hydrolyzed with 1.5 N NaOH (5 mL) to produce the title compound as a yellow solid after purification by recrystallization from acetonitrile.

reactant | ethyl (2E,4E,6E)-7-(8-tert-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoate | 1.111 mmol, 520 mg | C(C)(C)(C)C1=CCC(C=2C=C(C(=CC12)/C(=C(\C=C\C(=C\C(=O)OCC)\C)/F)/CC)OCC)(C)C | C30H41FO3
reactant | NaOH | 1.5 N, 5 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (2E,4E,6E)-7-(8-tert-Butyl-3-ethoxy-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoic acid | C(C)(C)(C)C1=CCC(C=2C=C(C(=CC12)/C(=C(\C=C\C(=C\C(=O)O)\C)/F)/CC)OCC)(C)C | C28H37FO3
